US04775692
To a solution of dimethyl methylphosphonate (6.1 ml, 56.0 mmol) in 100 ml anhydrous THF was added dropwise n-butyl lithium (1.61N, 34.7 ml, 55.9 mmol) at -78° C. under argon atmosphere. After stirring the mixture for 15 minutes, ethyl 2,2-dimethylnonanoate (5.00 g, 23.3 mmol) was added dropwise and the mixture was stirred at -78° C. for 20 minutes and then at room temperature for 2 hours. To the reaction mixture was added 20 ml of saturated aqueous solution of ammonium chloride. The mixture was extracted with ethyl acetate (50 ml×4). The ethyl acetate layers were washed with water (50 ml) and with brine (50 ml), dried over anhydrous sodium sulfate, and concentrated. Purification by column chromatography on silica gel (ethyl acetate) gave pure dimethyl 3,3-dimethyl-2-oxodecylphosphonate (2.3312 g, 7.97 mmol, yield 34%). The structure of this product was confirmed by the following data.

reactant | dimethyl methylphosphonate | 56.0 mmol, 6.1 ml | CP(OC)(OC)=O | C3H9O3P
reactant | n-butyl lithium | 55.9 mmol, 1.61N, 34.7 ml | C(CCC)[Li]
reactant | ethyl 2,2-dimethylnonanoate | 23.3 mmol, 5.00 g | CC(C(=O)OCC)(CCCCCCC)C | C13H26O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | dimethyl 3,3-dimethyl-2-oxodecylphosphonate | 7.97 mmol, 2.3312 g, yield 34% | CC(C(CP(OC)(OC)=O)=O)(CCCCCCC)C | C14H29O4P
